US09382237B2
Synthesis of 3-((3-chlorophenyl)amino)-5-((4-((5-(trifluoromethyl)pyridin-2-yl)oxy)benzyl)amino)-1H-pyrazole-4-carboxamide D33
5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide (300 mg) was suspended in EtOH (5 mL) and 4-[{5-(Trifluoromethyl)pyridin-2-yl}oxy]benzaldehyde (318 mg, 1 eq.) and piperidine (3 drops) were added. Stirred at reflux until intermediate was absent (HPLC). After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain product as a yellow powder. Powder was washed with EtOH. Product was allowed to dry under vacuum for 1 hr (360 mg, 60% yield). Resulting imine (360 mg) was suspended in 10 mL MeOH and sodium borohydride (10 eq., 272 mg) was added. HPLC confirmed reaction was complete (absence of imine). After completion (1 hr), precipitate was filtered to obtain D33 as a light yellow powder. Product was washed with deionized water to remove excess sodium borohydride. Product was allowed to dry under vacuum for 18 hrs. 255 mg (70% yield) of final product was obtained.

reactant | 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carboxamide | 300 mg | NC1=C(C(=NN1)NC1=CC(=CC=C1)Cl)C(=O)N | C10H10ClN5O
reactant | 4-[{5-(Trifluoromethyl)pyridin-2-yl}oxy]benzaldehyde | 318 mg, 1 eq. | FC(C=1C=CC(=NC1)OC1=CC=C(C=O)C=C1)(F)F | C13H8F3NO2
reactant | sodium borohydride | 272 mg, 10 eq. | [BH4-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 3-((3-chlorophenyl)amino)-5-((4-((5-(trifluoromethyl)pyridin-2-yl)oxy)benzyl)amino)-1H-pyrazole-4-carboxamide | 255 mg, 70% yield | ClC=1C=C(C=CC1)NC1=NNC(=C1C(=O)N)NCC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C23H18ClF3N6O2
